US07482346B2
2.1. 4-{3-[3-(trifluoromethyl)phenyl]prop-2-yn-1-yl}-1,4-diazepane-1-carbaldehyde
A mixture of 1.28 g (10 mmol) of 1,4-diazepane-1-carbaldehyde and 0.33 g (11 mmol) of paraformaldehyde in 13 ml of dioxane is heated at 80° C. until a homogeneous solution is obtained. 1.70 g (10 mmol) of 3-trifluoromethylphenylacetylene in solution in 7 ml of dioxane and 1.81 g (10 mmol) of copper diacetate are added. The mixture is heated at 80° C. for 4 hours. It is cooled to ambient temperature and diluted with 75 ml of ethyl acetate. The organic phase is washed with 25 ml of 30% ammonia solution and with saturated aqueous sodium chloride solution. It is dried over sodium sulphate and evaporated to dryness. The residue is purified by chromatography on silica gel, eluting with a 98/2/0.2 then 96/4/0.4 and 94/6/0.6 mixture of dichloromethane, methanol and 30% ammonia, to give 2.67 g of product in the form of a yellow oil.

reactant | 1,4-diazepane-1-carbaldehyde | 10 mmol, 1.28 g | N1(CCNCCC1)C=O | C6H12N2O
reactant | paraformaldehyde | 11 mmol, 0.33 g | C=O | CH2O
reactant | 3-trifluoromethylphenylacetylene | 10 mmol, 1.70 g | FC(C=1C=C(C=CC1)C#C)(F)F | C9H5F3
solvent | dioxane | 13 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper diacetate | 10 mmol, 1.81 g | C(C)(=O)[O-].C(C)(=O)[O-].[Cu+2]
product | 4-{3-[3-(trifluoromethyl)phenyl]prop-2-yn-1-yl}-1,4-diazepane-1-carbaldehyde | 2.67 g | FC(C=1C=C(C=CC1)C#CCN1CCN(CCC1)C=O)(F)F | C16H17F3N2O
